US07777047B2
N-{[4-(benzylthio)tetrahydro-2H-pyran-4-yl]methyl}-5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide
A mixture of 5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylic acid (1.0 g), 1-[4-(benzylthio)tetrahydro-2H-pyran-4-yl]methanamine (0.65 g), 1H-1,2,3-benzotriazol-1-ol (0.44 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.62 g) and N,N-dimethylformamide (15 mL) was stirred at room temperature for 18 hr. The reaction solution was concentrated under reduced pressure, ethyl acetate and water were added, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water, aqueous citric acid solution, saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over magnesium sulfate, and filtrated, and the filtrate was concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=20:80-80:20) to give the title compound (1.4 g, yield 90%) as a white solid.

reactant | 5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylic acid | 1.0 g | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C(=O)O | C18H19N3O6S
reactant | 1-[4-(benzylthio)tetrahydro-2H-pyran-4-yl]methanamine | 0.65 g | C(C1=CC=CC=C1)SC1(CCOCC1)CN | C13H19NOS
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.44 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.62 g | Cl.CN(CCCN=C=NCC)C
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N-{[4-(benzylthio)tetrahydro-2H-pyran-4-yl]methyl}-5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 1.4 g, yield 90% | C(C1=CC=CC=C1)SC1(CCOCC1)CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C | C31H36N4O6S2
